US08053457B2
4-(Pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 4-Amino-1-Boc-piperidine (2.0 g, 9.7 mmol), 2-Bromo-pyridine (1.93 mL, 19.4 mmol), NaOtBu (2.7 g, 27.1 mmol), 2-Dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl (472 mg, 1.16 mmol) and Tris(dibenzylideneacetone)dipalladium Chloroforme Complex (620 mg, 0.58 mmol) in dioxane (10 mL) is heated to 90° C. After completion, the reaction mixture is quenched by H2O, DCM is added and the organic layer is washed with brine, dried over MgSO4 and evaporated in vacuo. Silica gel flash chromatography of the residue affords the title compound as a white powder; ES-MS: M+H=278.3: AtRet=4.75.

reactant | 4-Amino-1-Boc-piperidine | 9.7 mmol, 2.0 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | 2-Bromo-pyridine | 19.4 mmol, 1.93 mL | BrC1=NC=CC=C1 | C5H4BrN
reactant | NaOtBu | 27.1 mmol, 2.7 g | CC(C)(C)[O-].[Na+]
reactant | 2-Dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl | 1.16 mmol, 472 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-(Pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=CC=C1 | C15H23N3O2
